US08685975B2
1-(5-(4-Bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxy-2-(quinolin-5-yl)ethanone was synthesized from N,2-dimethoxy-N-methyl-2-(quinolin-5-yl)acetamide and 2-(4-bromo-3,5-dimethoxyphenyl)furan following the procedure used for the synthesis of Example 12. Purification by chromatography (EtOAc-hexanes) provided 1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxy-2-(quinolin-5-yl)ethanone as a light yellow foam (0.102 g, 46% yield). MS: m/z 482.1 [M+H]+.

reactant | N,2-dimethoxy-N-methyl-2-(quinolin-5-yl)acetamide | CON(C(C(C1=C2C=CC=NC2=CC=C1)OC)=O)C | C14H16N2O3
reactant | 2-(4-bromo-3,5-dimethoxyphenyl)furan | BrC1=C(C=C(C=C1OC)C=1OC=CC1)OC | C12H11BrO3
product | 1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxy-2-(quinolin-5-yl)ethanone | 0.102 g, 46% yield | BrC1=C(C=C(C=C1OC)C1=CC=C(O1)C(C(C1=C2C=CC=NC2=CC=C1)OC)=O)OC | C24H20BrNO5
